US08492548B2
To a solution of 2-methylbenzoyl chloride (169 μl, 1.29 mmol) in dry acetonitrile (5 ml) and cooled at 0° C., under nitrogen atmosphere, was added (diazomethyl)-trimethylsilane (1.94 ml, 3.88 mmol, 2M in hexane). The reaction was stirred at room temperature for 15 hours, then it was cooled at 0° C. and 48% HBr (512 μl, 4.53 mmol) was slowly added. The reaction was stirred at room temperature for 3 hours. EtOAc and water were added, the organic layer was separated and the aqueous phase was neutralized with 1M NaOH and extracted with EtOAc. The combined organic layers were dried over Na2SO4, filtered and evaporated to dryness to obtain 2-bromo-1-o-tolylethanone (250 mg, 91% yield). This intermediate was used in the next step without any further purification.

reactant | 2-methylbenzoyl chloride | 1.29 mmol, 169 μl | CC1=C(C(=O)Cl)C=CC=C1 | C8H7ClO
reactant | (diazomethyl)-trimethylsilane | 3.88 mmol, 2M, 1.94 ml | [N+](=[N-])=C[Si](C)(C)C | C4H10N2Si
reactant | HBr | 4.53 mmol, 512 μl | Br | BrH
reactant | EtOAc | CCOC(=O)C | C4H8O2
solvent | acetonitrile | 5 ml | C(C)#N | C2H3N
solvent | water | O | H2O
product | 2-bromo-1-o-tolylethanone | 250 mg, 91% yield | BrCC(=O)C1=C(C=CC=C1)C | C9H9BrO
